US08633183B2
A-34) 6-Ethyl-5-ethynyl-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP3 starting from 12.23 g (56 mmol) 6-ethyl-5-trimethylsilanylethynyl-pyridin-2-ylamine and 3.87 g (28 mmol) K2CO3 in 120 mL MeOH. The product is purified by chromatography on silica gel using a DCM/MeOH gradient. Yield: 4.5 g (85%).

reactant | 6-ethyl-5-trimethylsilanylethynyl-pyridin-2-ylamine | 56 mmol, 12.23 g | C(C)C1=C(C=CC(=N1)N)C#C[Si](C)(C)C | C12H18N2Si
reactant | K2CO3 | 28 mmol, 3.87 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 120 mL | CO | CH4O
product | 6-Ethyl-5-ethynyl-pyridin-2-ylamine | C(C)C1=C(C=CC(=N1)N)C#C | C9H10N2
